US07943639B2
Synthesis of 6-benzenesulfonyl-4-chloro-quinoline
A solution of 6-benzenesulfonyl-quinoline 1-oxid (135 mg, 0.47 mmol) in POCl3 (4 mL) was heated at 90° C. for 2 h after which the solution was poured on ice, ammonium hydroxide was added and extraction with DCM. The organic phase was dried (NaSO4), the volatiles were evaporated and the residue was purified by column chromatography (SiO2, ethyl acetate:petroleum ether, 1:1) to yield a white solid (39 mg, 27%). MS m/z: 305 [M+H+].

reactant | 6-benzenesulfonyl-quinoline 1-oxid | 0.47 mmol, 135 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CC=[N+](C2=CC1)[O-] | C15H11NO3S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | POCl3 | 4 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-benzenesulfonyl-4-chloro-quinoline | 39 mg, 27% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1)Cl | C15H10ClNO2S
